US04713387
In 10 ml of methanol was dissolved 740 mg of 3-[p-(3-acetoxy-1-chloro-2-methylpropyl)benzyl]pyridine, and to the resulting solution was added 40 mg of sodium methoxide with ice-cooling, after which the resulting mixture was subjected to reaction at room temperature for 30 minutes. To the reaction mixture was added 0.1 ml of acetic acid, and the solvent was removed by distillation under reduced pressure, after which the residue thus obtained was dissolved in 10 ml of ethyl acetate. The resulting solution was washed with 5 ml of water and then dried over anhydrous magnesium sulfate. The residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene:ethyl acetate (1:1 by volume)] to obtain 400 mg (yield 62.3%) of colorless, oily 3-[p-(1-chloro-3-hydroxy-2-methylpropyl)benzyl]pyridine.

reactant | 3-[p-(3-acetoxy-1-chloro-2-methylpropyl)benzyl]pyridine | 740 mg | C(C)(=O)OCC(C(Cl)C1=CC=C(CC=2C=NC=CC2)C=C1)C | C18H20ClNO2
reactant | sodium methoxide | 40 mg | C[O-].[Na+]
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-[p-(1-chloro-3-hydroxy-2-methylpropyl)benzyl]pyridine | yield 62.3% | ClC(C(CO)C)C1=CC=C(CC=2C=NC=CC2)C=C1 | C16H18ClNO
